US06734180B1
7-(2-indanylamino)-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidine
7-chloro-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidine (28 mg, 0.15 mmol) (see J. Med. Chem.,31, 454 (1988)), 2-aminoindan (66 mg, 0.50 mmol), and triethylamine (30 μl, 0.2 μmol) in dry methylene chloride (1 ml) were heated to reflux for 2 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=1:4) to obtain the title compound (26 mg, 0.093 mmol) having the following physical properties:

reactant | 7-chloro-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.15 mmol, 28 mg | ClC=1C2=C(N=CN1)C(=NN2C)C | C7H7ClN4
reactant | 2-aminoindan | 0.50 mmol, 66 mg | NC1CC2=CC=CC=C2C1 | C9H11N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 0.2 μmol, 30 μl | C(C)N(CC)CC | C6H15N
product | 7-(2-indanylamino)-1,3-dimethyl-1H-pyrazolo[4,3-d]pyrimidine | 0.093 mmol, 26 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)C(=NN2C)C | C16H17N5
